US04298529
Anhydrous potassium carbonate (8.89 g) was added to a solution of methyl 2-methoxyimino-3,3-diethoxybutyrate (syn isomer, 10 g) in chloroform (40 ml). Sulfuryl chloride (6.94 g) was added to the suspension at -6 to -2° C. over 50 minutes, and stirred at -5° to -2° C. for 10 minutes. After removing the solvent from the resultant mixture, ethanol (10 ml) was added to the residue and stirred for 30 minutes. Water (25 ml) was added to the mixture, and the mixture was extracted with diisopropyl ether (20 ml) twice. The extract was washed with water (10 ml) and a saturated aqueous solution of sodium chloride (5 ml) subsequently, and dried over magnesium sulfate. The solution was evaporated in vacuo to give methyl 2-methoxyimino-3,3-diethoxy-4-chlorobutyrate (syn isomer, 11.23 g).

reactant | potassium carbonate | 8.89 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-methoxyimino-3,3-diethoxybutyrate | 10 g | CON=C(C(=O)OC)C(C)(OCC)OCC | C10H19NO5
reactant | Sulfuryl chloride | 6.94 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 2-methoxyimino-3,3-diethoxy-4-chlorobutyrate | 11.23 g | CON=C(C(=O)OC)C(CCl)(OCC)OCC | C10H18ClNO5
